US05585359
Step B: N-{2(S)-[(4-(1-H-Tetrazol-5-yl)benzylthio)acetamido]-3(S)-methylpentyl}-N-(1-naphthylmethyl)-glycyl-methionine methyl ester
Following the procedure described for Example 1, Step G, [4-(1H-tetrazol-5-yl)benzylthio]acetic acid was coupled with N-(2(S)-amino-3(S)-methylpentyl)-N-(1-naphthylmethyl)-glycyl-methionine methyl ester hydrochloride to give the title compound.

reactant | [4-(1H-tetrazol-5-yl)benzylthio]acetic acid | N1N=NN=C1C1=CC=C(CSCC(=O)O)C=C1 | C10H10N4O2S
reactant | N-(2(S)-amino-3(S)-methylpentyl)-N-(1-naphthylmethyl)-glycyl-methionine methyl ester hydrochloride | Cl.COC([C@@H](NC(CN(CC1=CC=CC2=CC=CC=C12)C[C@H]([C@H](CC)C)N)=O)CCSC)=O
product | N-{2(S)-[(4-(1-H-Tetrazol-5-yl)benzylthio)acetamido]-3(S)-methylpentyl}-N-(1-naphthylmethyl)-glycyl-methionine methyl ester | COC([C@@H](NC(CN(CC1=CC=CC2=CC=CC=C12)C[C@H]([C@H](CC)C)NC(CSCC1=CC=C(C=C1)C1=NN=NN1)=O)=O)CCSC)=O | C35H45N7O4S2
